* lif_demo_network [DETAILED]

VDD vdd 0 5.0
VREF vref 0 2.5
.options method=gear maxord=2 reltol=2e-3 trtol=7
* ---------- demo_neuron_ps DETAILED neuron subcircuit (with pulse stretching) ----------
.subckt demo_neuron_ps_detailed mem vref vdd comp_pulse analog_out sum
* Vref buffer (OPA604-like)
Ebuf vref_buf 0 vref 0 1e5
Rbuf vref_buf vref 1k
Cbuf vref 0 80p
Rvr  vref vref_buf 1m
* TIA op-amp with finite gain and compensation
Eint mem 0 sum vref 2e5
Rout_int mem 0 20
Cint mem 0 5p
Cmem  mem sum 1e-08
Rleak mem sum 120000.0
Iint_bias vdd 0 2e-05
* Divider to place threshold near Vref + over_vref_V
Rvh  vdd     vth_node 3.4e+06
Rvl  vth_node vref    1.58e+06
Rf   comp_out vth_node 1.07e+08
Cadapt vth_node vref 2.2e-08
.model DADAPT D(Is=1e-6 N=1.05 Rs=2 Cjo=1p Eg=0.69)
Rinj  comp_out ninj 2.2Meg
Dinj  ninj vth_node DADAPT
.param VLO=0.0 VHI=5.0
.param VSW=0.01
Bdef vdef 0 V = V(vref) - V(mem)
Btheta_rel vtheta_rel 0 V = V(vth_node) - V(vref)
* Soft comparator: force threshold to the configured over_vref (align with Rust model)
Bcomp comp_raw 0 V = VLO + (VHI - VLO)*(0.5*(1 + tanh( ( V(vdef) - ( 0.8 + 0.003 ) ) / VSW )))
Rcout comp_raw comp_out 10.0
Ccout comp_out 0 4e-09
Icomp_bias vdd 0 2e-06

* Pulse stretching circuit for downstream charge transfer
* τ_pulse = 1e+05Ω × 1e-07F = 10.00 ms
.model DPW D(Is=1e-12 N=1.05 Rs=10 Cjo=1p)
Dpw comp_out comp_pulse DPW
Rpw comp_pulse 0 1e+05
Cpw comp_pulse 0 1e-07
Rreset mem reset_node 200.0
Coff_reset reset_node vref 7e-12
Sreset reset_node vref comp_out 0 SWMUX
.model SWMUX SW(Ron=10.0 Roff=1000000000.0 Vt=2.5 Vh=0.1)
* Analog output stage
Bdiff ana_in 0 V = V(mem) - V(vref)
* Inverting amplifier op-amp (OPA-like)
Eana_opamp ana_opamp_out 0 0 ana_inv_in 1e5
Rana_int ana_opamp_out analog_out 50
Cana_comp analog_out 0 2p
R1_ana ana_in ana_inv_in 1e+04
R2_ana analog_out ana_inv_in 2e+04
Rana_load analog_out 0 10000.0
Iana_bias vdd 0 1e-05
.ends

XNEU mem vref vdd comp ana sum demo_neuron_ps_detailed
Ra_out   ana n_outmix 100
Diso     comp n_outmix D_SCHOTTKY
Rload    n_outmix 0 10k
.model   D_SCHOTTKY D(Is=1e-6 N=1.05 Rs=2 Cjo=2p Vj=0.3 M=0.3 Eg=0.69)
Vsrc_syn1 n_syn1 vref PWL(0.0 0.0 0.005 0.0 0.005001 1.2 0.005399 1.2 0.0054 0.0)

R_syn1 n_syn1 sum 33000.0
Vsrc_syn2 n_syn2 vref PWL(0.0 0.0 0.0115 0.0 0.011501 1.2 0.011849 1.2 0.01185 0.0 0.017 0.0 0.017001 1.2 0.017349 1.2 0.01735 0.0 0.022 0.0 0.022001 1.2 0.022649 1.2 0.02265 0.0)

R_syn2 n_syn2 sum 66000.0
Vsrc_syn3 n_syn3 vref PWL(0.0 0.0 0.026 0.0 0.026001 1.2 0.026599 1.2 0.0266 0.0 0.034 0.0 0.034001 1.2 0.034599 1.2 0.0346 0.0 0.039 0.0 0.039001 3.2 0.039199 3.2 0.0392 0.0)

R_syn3 n_syn3 sum 165000.0

.control
  set filetype=ascii
  set wr_singlescale
  set wr_vecnames
  * Force uniform output grid and small files
  tran 1e-06 0.05 0 1e-06
  linearize
  wrdata /Users/eoghancollins/Tarskii/SPICE/neuronSim/outputs/lif_detailed.csv time v(vref) v(mem) v(comp) v(ana) v(n_outmix) v(sum) v(n_syn1) i(Vsrc_syn1) v(n_syn2) i(Vsrc_syn2) v(n_syn3) i(Vsrc_syn3) i(VDD) i(VREF)
  quit
.endc

.end
